data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(OC)c1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1cccc(OC)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1cccc(OC)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(OC)c1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1cccc(OC)c1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1cccc(OC)c1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1cccc(OC)c1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1cccc(OC)c1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1cccc(OC)c1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1cccc(OC)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1cccc(OC)c1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1cccc(OC)c1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1cccc(OC)c1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1cccc(OC)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1cccc(OC)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1cccc(OC)c1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(C)c(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1ccc(C)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1ccc(C)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1ccc(C)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc(C)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc(C)c2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)ccc1C.[H+]", "products": "COc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1C"}, {"reactants": "COc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1C", "products": "COc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1C.O"}, {"reactants": "COc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1C", "products": "COc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1C"}, {"reactants": "COc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1C", "products": "COc1cc(C2=C(C)C(C)(C)C(C#[O+])CC2)ccc1C"}, {"reactants": "COc1cc(C2=C(C)C(C)(C)C(C#[O+])CC2)ccc1C.O", "products": "COc1cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)ccc1C"}, {"reactants": "COc1cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)ccc1C", "products": "COc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1C"}, {"reactants": "COc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1C", "products": "COc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1C"}, {"reactants": "COc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1C", "products": "COc1cc(C2CCC3C(=O)OC2(C)C3(C)C)ccc1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)cc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)cc(OC)c1", "products": "COc1cc(Cl)cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(F)c(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "Cc1ccc(F)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "Cc1ccc(F)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1ccc(F)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "Cc1ccc(F)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1ccc(F)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "Cc1ccc(F)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CC1=C(c2cc(C)ccc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)ccc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(C)ccc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)ccc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(F)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "Cc1ccc(F)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "Cc1ccc(F)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "Cc1ccc(F)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "Cc1ccc(F)c(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OCC(C)(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(C)(CO1)O2"}, {"reactants": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(C)(CO1)O2.[O-]C", "products": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(C)(CO1)O2"}, {"reactants": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(C)(CO1)O2", "products": "COC12OCC(C)(O1)C1C(=O)C12"}, {"reactants": "COC12OCC(C)(O1)C1C(=O)C12.[O-]C", "products": "COC12OCC(C)(O1)C1C2C1([O-])OC"}, {"reactants": "COC12OCC(C)(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(C)COC1(OC)O2"}]}
